US08629157B2
Step 3: Synthesis of (S)-1-(morpholine-4-carbonyl)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide
To a solution of (S)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide; hydrochloride (0.2 g; 0.731 mmol) in N,N-dimethylformamide (2 mL) is added morpholine carbonylchloride (0.084 mL; 0.731 mmol) and N,N-diisopropylethylamine (0.267 mL; 1.535 mmol) and the reaction mixture stirred overnight at room temperature. After this time, the mixture is diluted with water and extracted with ethyl acetate. The combined organics are washed with 1N hydrochloric acid and brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude material is purified by preparative HPLC to afford title compound. ESI m/z 351 [M+H]+/349 [M−H]−

reactant | (S)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1NCCC1 | C12H19N3O2
reactant | hydrochloride | 0.731 mmol, 0.2 g | Cl | ClH
reactant | morpholine carbonylchloride | 0.731 mmol, 0.084 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | N,N-diisopropylethylamine | 1.535 mmol, 0.267 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-1-(morpholine-4-carbonyl)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C(=O)N1CCOCC1 | C17H26N4O4
